US04217312
To 10.14 g of 1-methylethyl 2,2-dichloro-2-[(ethoxy)phenylphosphinyl]acetate at 60° C. and under a nitrogen atmosphere was added 6.24 g of phosphorus pentachloride in 1 g portions over a 72 hour period. The mixture was stirred an additional 48 hours after addition. Volatile reaction products were distilled at 45°-50° C./0.75 mm Hg leaving 1-methylethyl 2,2-dichloro-2-[(1-chloro)phenylphosphinyl]acetate as a brown oil.

reactant | 1-methylethyl 2,2-dichloro-2-[(ethoxy)phenylphosphinyl]acetate | 10.14 g | ClC(C(=O)OC(C)C)(P(=O)(C1=CC=CC=C1)OCC)Cl | C13H17Cl2O4P
reactant | phosphorus pentachloride | 6.24 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
product | 1-methylethyl 2,2-dichloro-2-[(1-chloro)phenylphosphinyl]acetate | ClC(C(=O)OC(C)C)(P(=O)C1(CC=CC=C1)Cl)Cl | C11H14Cl3O3P
